US05958942
ii) Synthesis of 1,2-dihydro-3-methyl-[3-(methanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride
To a suspension of 500 mg (1.62 mmol) of 1,2-dihydro-3-methyl-1-[3-(methanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 30 ml of methanol was added 0.18 ml of conc. HCl. The solvent was distilled off to give 557 mg of the desired compound (99.6%, pale yellow crystals), m.p.184.0-185.0° C.

reactant | 1,2-dihydro-3-methyl-1-[3-(methanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 1.62 mmol, 500 mg | CC=1N=C2N3C1C(N(C3=CC=C2)CCCNS(=O)(=O)C)=O | C13H16N4O3S
reactant | HCl | 0.18 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 1,2-dihydro-3-methyl-[3-(methanesulfonamido)propan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride | 557 mg, 99.6% | Cl.CC=1N=C2N3C1C(N(C3=CC=C2)CCCNS(=O)(=O)C)=O | InChI=1S/C13H16N4O3S.ClH/c1-9-12-13(18)16(8-4-7-14-21(2,19)20)11-6-3-5-10(15-9)17(11)12;/h3,5-6,14H,4,7-8H2,1-2H3;1H
